US07696352B2
To a solution of 5-chloro-thiophene-2-carboxylic acid (60 mg, 0.37 mmol) and TEA (0.102 mL, 0.73 mmol) in DMF (4 mL) was added BOP (196 mg, 0.44 mmol). After 10 min of stirring, the solution was added to a sample of (1-(4-iodophenyl)-1H-pyrrol-3-yl)methanamine (91 mg, 0.31 mmol) in a flask. The mixture was stirred at room temperature overnight. H2O was added to induce precipitation. The resulting precipitate was collected and dried on vacuum to give 5-chloro-N-((1-(4-iodophenyl)-1H-pyrrol-3-yl)methyl)thiophene-2-carboxamide (118 mg).

reactant | 5-chloro-thiophene-2-carboxylic acid | 0.37 mmol, 60 mg | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | BOP | 0.44 mmol, 196 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | (1-(4-iodophenyl)-1H-pyrrol-3-yl)methanamine | 0.31 mmol, 91 mg | IC1=CC=C(C=C1)N1C=C(C=C1)CN | C11H11IN2
reactant | H2O | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 5-chloro-N-((1-(4-iodophenyl)-1H-pyrrol-3-yl)methyl)thiophene-2-carboxamide | 118 mg | ClC1=CC=C(S1)C(=O)NCC1=CN(C=C1)C1=CC=C(C=C1)I | C16H12ClIN2OS
